US07868014B2
Stir a solution of diisopropylethylamine (9.5 mL, 54.3 mmol), 6-chloronicotinonitrile (5 g, 36.2 mmol) and 3-tert-butyloxycarbonylpyrrolidine (10 g, 54.3 mmol) in DMF (10 mL). After 3 days, dilute with dichloromethane and an aqueous saturated solution of sodium bicarbonate and separate the layers. Extract the aqueous layer once with dichloromethane, dry (sodium sulfate), filter and concentrate. Filter through a plug of silica gel, wash with dichloromethane and concentrate to give [1-(5-cyanopyridin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester as a white solid (8.13 g, 78%). 1H NMR (400 MHz, CDCl3) δ 8.38 (dd, 1H, J=2.4 Hz, 1.0 Hz), 7.58-7.55 (m, 1H), 6.33 (dd, 1H, J=9.8 Hz, 1.0 Hz), 4.85-4.7 (m, 1H), 4.40-4.25 (m, 1H), 3.85-3.30 (m, 4H), 2.35-2.25 (m, 1H), 2.08-1.90 (m, 1H), 1.43 (s, 9H); MS (ES): m/z=289 [M+H]+.

reactant | diisopropylethylamine | 54.3 mmol, 9.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chloronicotinonitrile | 36.2 mmol, 5 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 3-tert-butyloxycarbonylpyrrolidine | 54.3 mmol, 10 g | C(C)(C)(C)OC(=O)C1CNCC1 | C9H17NO2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | [1-(5-cyanopyridin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 8.13 g, 78% | C(C)(C)(C)OC(NC1CN(CC1)C1=NC=C(C=C1)C#N)=O | C15H20N4O2
